US04377699
Ikan et al. [Israel J. of Chemistry, Vol. 2 (1964), p. 37-42] and Terent'ev et al. [Proc. Acad. Sci. USSR, Vol. 118 (2) (1958), p. 49-52] describe the dehydration of 5-chloro-indoline with chloranil to obtain 5-chloro-indole but due to the expense of chloranil, the process is not commercially feasible. French Pat. No. 1,576,807, DOS No. 1,770,977, Chem. Abs., Vol. 72 (1970), p. 121360n and Bader et al. [J.A.C.S., Vol. 83 (1961), p. 3319] tried to avoid this difficulty with partial success by heating indoline and its derivatives to high temperatures in the presence of palladium, platinum of Raney nickel catalysts, sometimes in the presence of a hydrogen acceptor. For example, indoline can be dehydrated at 100 to 150° C. in aromatics with a good yield of indole with hydrogen in the presence of finely divided palladium. Hunt et al. [J. Chem. Soc., (C) (1966), p. 344-345] teach reacting 5-methoxy-indoline in refluxing mesitylene in the presence of palladized carbon to obtain a 90% yield of 5-methoxy-indole.

reactant | chloranil | C1(=C(C(=O)C(=C(C1=O)Cl)Cl)Cl)Cl | C6Cl4O2
reactant | indoline | N1CCC2=CC=CC=C12 | C8H9N
reactant | hydrogen | [H][H] | H2
reactant | indole | N1C=CC2=CC=CC=C12 | C8H7N
reactant | 5-methoxy-indoline | COC=1C=C2CCNC2=CC1 | C9H11NO
reactant | mesitylene | C1(=CC(=CC(=C1)C)C)C | C9H12
catalyst | Raney nickel | [Ni] | Ni
catalyst | palladium | [Pd] | Pd
catalyst | platinum | [Pt] | Pt
product | 5-methoxy-indole | 90% yield | COC=1C=C2C=CNC2=CC1 | C9H9NO
